data/oMe_Silver.jsonl
{"reaction_id": "NR-105_1-c2ccccc2_2-C(=O)C_3-C(C)C_4-N2CCOCC2_5-C(C)(C)C","level": "medium","name": "Hemetsberger-Knittel Indole Synthesis","reactants_smiles": ["[N-]=[N+]=N/C(=C/c1c(N2CCOCC2)c(C(C)C)c(C(=O)C)c(c2ccccc2)c1)\\C(=O)OC(C)(C)C"],"products_smiles": ["c1c(C(=O)OC(C)(C)C)[nH]c2c1c(N2CCOCC2)c(C(C)C)c(C(=O)C)c2c2ccccc2"],"conditions": "Heat","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[N]/C(=C/c1c(N2CCOCC2)c(C(C)C)c(C(=O)C)c(c2ccccc2)c1)\\C(=O)OC(C)(C)C","step_weight": 0,"rationale": "Thermal conditions promote loss of N₂ from the azide due to its excellent leaving group ability, generating an electron-deficient nitrene stabilized by conjugation with the alkene."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "C(C)(C)COC(=O)C1C=C2C(=[n]1)c(c(c(c2N2CCOCC2)C(C)C)C(=O)C)c2ccccc2","step_weight": 0,"rationale": "The nitrene undergoes a 6π-electrocyclization driven by conjugation between the alkene and aromatic ring, forming the bicyclic indole skeleton under thermal control."},{"step": 3,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "c1c(C(=O)OC(C)(C)C)[nH]c2c1c(N2CCOCC2)c(C(C)C)c(C(=O)C)c2c2ccccc2","step_weight": 0,"rationale": "A sigmatropic hydrogen shift restores aromaticity in the heterocycle, as aromatization provides strong thermodynamic driving force for the rearrangement."}],"description": "Upon heating, the azide undergoes nitrogen extrusion to form a reactive nitrene intermediate, which then cyclizes via electrocyclization to form the indole framework. A subsequent sigmatropic rearrangement aromatizes the ring, yielding the substituted indole product."}
{"reaction_id": "NR-136_5-CC_6-C(C)(C)C","level": "medium","name": "Madelung Indole Synthesis","reactants_smiles": ["C(=O)(C(C)(C)C)Nc1ccccc1C([H])(CC)","CCCC[Li]"],"products_smiles": ["C1(C(C)(C)C)=C(CC)Nc2ccccc12"],"conditions": "Base","mechanism_step_nums": 8,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)(C)C)[N-]c1ccccc1C([H])(CC)","step_weight": 0,"rationale": "Strong base deprotonates the amide nitrogen due to its relatively acidic N–H, enhanced by resonance stabilization of the resulting anion."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(C(C)(C)C)[N-]c1ccccc1[C-](CC)","step_weight": 0,"rationale": "The benzylic proton adjacent to the aromatic ring is acidic due to resonance stabilization of the resulting carbanion into the aromatic system."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(C)(C)C)([O-])[N-]c2ccccc2C1(CC)","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by intramolecular proximity and the polarization of the C=O bond."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)(O)[N-]c2ccccc2C1(CC)","step_weight": 0,"rationale": "Proton transfer to the alkoxide oxygen stabilizes the intermediate, driven by the high basicity of the alkoxide."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)(O)Nc2ccccc2C1(CC)","step_weight": 0,"rationale": "Protonation of the nitrogen restores its neutral form, preparing the system for subsequent dehydration."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)([OH2+])Nc2ccccc2C1(CC)","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group (water), facilitated by acidic conditions."},{"step": 7,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1(C(C)(C)C)=[NH+]c2ccccc2C1(CC)","step_weight": 0,"rationale": "Elimination of water occurs to form the iminium species, driven by the stability of the conjugated heteroaromatic system forming."},{"step": 8,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1(C(C)(C)C)=C(CC)Nc2ccccc12","step_weight": 0,"rationale": "Deprotonation adjacent to the iminium nitrogen restores aromaticity, yielding the stable indole product."}],"description": "Under strong base, the amide nitrogen and benzylic position are deprotonated, enabling intramolecular nucleophilic attack on the carbonyl to form a cyclic intermediate. Subsequent proton transfers and dehydration yield the indole core via the Madelung synthesis pathway."}
